US04839369
2-[3-(4-Hydroxy-4-phenylpiperidin-1-ylmethyl)phenoxymethyl]quinoline
A mixture of 3.2 g (0.01 mol) 2-(3-chloromethyl-phenoxymethyl)quinoline hydrochloride, 1.7 g (0.01 mol) 4-hydroxy-4-phenylpiperidine and 1.2 g (0.02 mol) KOH in 5 ml of H2O and 50 ml ethanol was heated over steam bath for a period of 3 hours. Reaction mixture was concentrated to dryness and slurried into water, and extracted with methylene chloride. The methylene chloride extract dried over MgSO4 and concentrated to dryness under reduced pressure to obtain solid. Repeated recrystallization from isopropanol and acetronitrite gave desired product 2 g, m.p. 123°-225° C.

reactant | 2-(3-chloromethyl-phenoxymethyl)quinoline hydrochloride | 0.01 mol, 3.2 g | Cl.ClCC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1
reactant | 4-hydroxy-4-phenylpiperidine | 0.01 mol, 1.7 g | OC1(CCNCC1)C1=CC=CC=C1 | C11H15NO
reactant | KOH | 0.02 mol, 1.2 g | [OH-].[K+]
solvent | H2O | 5 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-[3-(4-Hydroxy-4-phenylpiperidin-1-ylmethyl)phenoxymethyl]quinoline | 2 g | OC1(CCN(CC1)CC=1C=C(OCC2=NC3=CC=CC=C3C=C2)C=CC1)C1=CC=CC=C1 | C28H28N2O2
